US06900227B2
Preparation of 4-methylphenyl-2-chlorophenyl-dichloromethane
From 2-chlorobenzotrifluoride (180 mg, 1 mmol), AlCl3 (400 mg, 3 mmol) and toluene (92 mg, 1 mmol), light yellow oil (345 mg, 120% crude).

reactant | 2-chlorobenzotrifluoride | 1 mmol, 180 mg | ClC1=C(C=CC=C1)C(F)(F)F | C7H4ClF3
reactant | AlCl3 | 3 mmol, 400 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | toluene | 1 mmol, 92 mg | C1(=CC=CC=C1)C | C7H8
product | 4-methylphenyl-2-chlorophenyl-dichloromethane | CC1=CC=C(C=C1)C(Cl)(Cl)C1=C(C=CC=C1)Cl | C14H11Cl3
